Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
AV Fistula Thrombosis
Hyperkalemia
Atrial Fibrillation with Rapid Ventricular Response with 
Hypotension

ESRD on HD
CHF with Chronic Pleural Effusions s/p PleurX catheter insertion
 
Major Surgical or Invasive Procedure:
Fistulogram/Thrombolysis on ___ by Dr. ___ and Dr. 
___

 
History of Present Illness:
___ with AFib, HFrEF (LVEF ___ in ___, ESRD on dialysis 
who presented from his ___ facility today after he was 
found to have a clotted fistula. He also presented with 
hypotension, and a-fib with RVR. On arrival he was found to have 
HR 151 and BP 80/55. No CP/SOB, lightheadedness, abd pain or any 
concerns. 

He was also found to be hyperkalemic to 6.9 He continued to be 
in rapid Afib to rates of 150s with a wide QRS (~140msec) and 
peaked T waves. He received insulin/D50 as well as calcium 
gluconate and NaHCO3 (1 amp).

On evaluation, his HRs came down to the ___ and his BPs 
settled in the systolics of 100s. He reports feeling well with 
no complaints. No thrill or bruit was appreciated over his AVF, 
so a temporary HD line was placed in the right femoral vein.  He 
tolerated the procedure well. 

Of note, Pt underwent pleurocentesis on R side yesterday for 
chronic transudative pleural effusions and has pleurex catheter 
in place. Pt denies fever, chills.

Of note recently discharged on ___ for hypotension and 
hyperkalemia.

On the floor he was stable and had no complaints. He denies 
dizziness, lightheadedness, fevers, chills, palpitations, SOB or 
chest discomfort. He feels well.

REVIEW OF SYSTEMS:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.
 
Past Medical History:
ESRD on HD ___, since ___, HTN/T2DM/Obstructive 
Nephropathy)
CHF ___: LVEF= ___ with chronic transudative pleural 
effusions)
AFib on warfarin, propanolol
HTN
NIDDM - controlled with weight loss
Neurogenic Bladder
Gout
PVD
Hypothyroidism
Cricopharyngeal dysphagia ___ neck fracture
Sleep Apnea on CPAP
Anemia of chronic disease ___ renal dysfunction
Autonomic dysfunction - previously on midodrine and 
fludrocortisone
Chronic osteomyelitis ___ diagnosed by bone fragment biospy 
now s/p vanco/ceftaz
Hypothyroidism
I&D buttock hematoma (93)
Left arm radiocephalic AV fistula creation (___)
Superficialization of left arm AV fistula (___)
Repair of left arm arteriovenous fistula aneurysm (___)
Repair of LUE AVF aneurysm (___)
PleurX® pleural drainage tube (___)
 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:   
GENERAL: NAD, comfortable
HEENT: PERRL, OP clear, MMM  
CARDS: regular rate, normal rhythm, normal S1 and S2, no m/r/g  
PULM: diminished BSs on right, with PleurX in place  
ABDOMEN: soft/NT/ND, NABS  
EXTREMITIES: 1+ ___ edema bilaterally  
ACCESS: LUE AVF without auscultated bruit or palpated thrill 
NEURO: A&Ox3 
PULSES:  2+ DP, 2+ femoral, HD catheter in R groin c/d/i

DISCHARGE PHYSICAL EXAM:
Vitals = 98.5, 76-88, 99-122/66-90, 18, 99% on RA
GENERAL: NAD, comfortable
HEENT: PERRL, OP clear, MMM
CARDS: HR irregularly irregular, II/VI SEM in RSB, II/VI murmur 
in apex, 
PULM: diminished BS on right, with pleural drainage catheter in 
place
ABDOMEN: soft/NT/ND, NABS
EXTREMITIES: Trace peripheral edema in lower extremities 
bilaterally
ACCESS: LUE AVF with auscultated bruit and palpated thrill, but 
some dried blood contained within the dressings, right femoral 
catheter site dressings C/D/I
NEURO: A&Ox3
PULSES: 2+ ___, mild right toe ulcer C/D/I
 
Pertinent Results:
ADMISSION LABS:
___ 03:00PM BLOOD WBC-10.2# RBC-3.38* Hgb-10.9* Hct-35.0* 
MCV-104* MCH-32.2* MCHC-31.0 RDW-14.7 Plt ___
___ 03:00PM BLOOD Neuts-73.7* Lymphs-13.2* Monos-9.0 
Eos-3.3 Baso-0.8
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD Glucose-96 UreaN-86* Creat-8.6*# Na-134 
K-7.7* Cl-99 HCO3-19* AnGap-24*
___ 07:00PM BLOOD Calcium-10.4* Phos-4.6* Mg-2.4
___ 03:15PM BLOOD Lactate-1.3 K-6.9*

___ 06:19AM BLOOD WBC-5.4 RBC-2.81* Hgb-8.8* Hct-28.2* 
MCV-101* MCH-31.5 MCHC-31.3 RDW-14.3 Plt Ct-93*
___ 09:10PM BLOOD Hct-27.5*
___ 06:59AM BLOOD WBC-7.3 RBC-2.49* Hgb-7.9* Hct-25.3* 
MCV-102* MCH-31.5 MCHC-31.1 RDW-14.4 Plt ___

CXR
___
FINDINGS:  
Compared to prior, there has been no significant interval 
change. Right PleurX catheter identified at the right lung base 
with persistent right-sided pleural effusion unchanged. There is 
no pneumothorax. Small amount of subcutaneous gas tracks along 
the right chest wall. There is some component of atelectasis 
possible consolidation or underlying lesion is not excluded. The 
left lung is clear and the cardiomediastinal silhouette is 
stable.  
IMPRESSION:  
No significant interval change.  Persistent right pleural 
effusion. Associated atelectasis again seen noting that 
consolidation from infection or underlying lesion is not 
excluded. 

ARTERIOVENOUS FISTULOGRAM / THROMBOLYSIS ___  
Study Date of ___ 1:45 ___
___ 1:45 ___
AV FISTULOGRAM ___ Clip # ___  
Reason: fistulogram and thrombectomy
UNDERLYING MEDICAL CONDITION:
   ___ year old man with ESRD on HD with clotted left upper 
extremity fistula
REASON FOR THIS EXAMINATION:
   fistulogram and thrombectomy
Final Report
INDICATION:  ___ MALE WITH SUSPECTED TO BE THROMBOSED 
LEFT UPPER
EXTREMITY FISTULA. ON PHYSICAL EXAM THERE IS A FAINT THRILL AT 
THE
ANASTOMOSIS.
 COMPARISON:  Fistulogram and thrombectomy from ___.
 TECHNIQUE:  OPERATORS: Dr. ___ radiology 
fellow) and Dr.
___ radiology attending) performed the 
procedure. The
attending, Dr. ___ was present and supervising throughout 
the procedure.
ANESTHESIA: Moderate sedation was provided by administrating 
divided doses of
100mcg of fentanyl and 1 mg of midazolam throughout the total 
intra-service
time of 1 hour 30 minutes during which the patient's hemodynamic 
parameters
were continuously monitored by an independent trained radiology 
nurse. 1%
lidocaine was injected in the skin and subcutaneous tissues 
overlying the
access site.
MEDICATIONS: Fentanyl, Versed
CONTRAST: 85 ml of Optiray contrast.
FLUOROSCOPY TIME AND DOSE: 25.5 min, 41 mGy
 PROCEDURE:  1. Left upper extremity AV fistulogram.
2. Axillary, subclavian and superior vena cava venography.
3. Balloon angioplasty of the cephalic arch stenosis 
(recurrent).
4. Balloon angioplasty of the juxta- anastomotic area of 
stenosis (recurrent).
 PROCEDURE DETAILS:
Written informed consent was obtained from the patient outlining 
the risks,
benefits and alternatives to the procedure. The patient was then 
brought to
the angiography suite and placed supine on the image table with 
the left
upperextremity abducted and stabilized. Clinical examination 
demonstrated a
faint thrill at the anastomosis of the  brachiocephalic fistula 
in the left
upper extremity. The left upper extremity was prepped and draped 
in the usual
sterile fashion. A pre-procedure timeout and huddle was 
performed as per ___
protocol.
 Following administration of 1% lidocaine antegrade (directed 
towards the
venous outflow) access into the cephalic vein was obtained using 
a 21G
micropuncture needle under palpatory guidance. An 0.018 wire was 
then advanced
into the outflow vein under fluoroscopic guidance. A 4.5F 
micropuncture sheath
was advanced and used to exchange for an 0.035 Glidewire. The 
Glidewire was
advance to the level of the subclavian vein across the area of 
stenosis. A
short 6 ___ sheath was placed over the wire. An 8 mm x 4 cm 
Mustang balloon
was placed over the wire and targeted at the cephalic arch 
junction to the
subclavian vein. Balloon angioplasty was performed. With the 
balloon still up,
a contrast injection run was performed to evaluate the arterial 
anastomosis. 
The balloon was then deflated and post angioplasty images were 
obtained.
 Next, 1% lidocaine was injected in the subcutaneous tissues 
retrograde
(directed towards the arterial anastomosis) and access into the 
cephalic vein
was obtained using a 21G micropuncture needle under palpatory 
guidance. An
0.018 wire was advanced into the artery under fluoroscopic 
guidance. A 4.5F
micropuncture sheath was advanced and used to exchange for an 
0.035 Glidewire.
The Glidewire was advance into the artery and a short 6 ___ 
sheath was
placed over the wire. Multiple wires and catheters were used to 
navigate into
the proximal artery but ultimately achieved utilizing a Direxion 
Swan
microcatheter and Headliner steerable Guidewire. The Kumpe 
catheter was
advanced and the microcatheter and wire were exchanged for a 
___ wire. The
Kumpe catheter was removed and the 8 mm x 4 cm mustang balloon 
was targeted
over the stenosis at the juxta-anastomotic area. Following 
balloon
angioplasty, marked improvement of the stenosis was noted.
 The sheaths were removed and hemostasis was achieved using 
manual pressure and pursestring sutures.
There were no immediate complications.
 FINDINGS: 
 1. No evidence of thrombus within the left upper extremity 
fistula.
2. Severe stenosis (90%) of the venous outflow at the cephalic 
arch junction
to the subclavian vein as well as severe stenosis (90%)  at the 
juxta-
anastomotic area. Both lesions are recurrent as they were 
previously diagnosed
and treated during the last thrombectomy procedure in ___. Both cephalic arch and arterial anastomosis were balloon 
angioplastied
using an 8 mm balloon.
4. Marked improvement in flow at both sites following balloon 
angioplasty.
IMPRESSION: 
Satisfactory restoration of flow following balloon angioplasty 
of the venous
outflow at the cephalic arch junction to the subclavian vein as 
well as the
juxta-anastomotic area with excellent angiographic and clinical 
results with
restoration of a good palpable thrill.
 The study and the report were reviewed by the staff 
radiologist.
 ___. ___
___. ___

DISCHARGE LABS:

___ 07:00AM BLOOD WBC-7.8 RBC-2.71* Hgb-8.8* Hct-27.6* 
MCV-102* MCH-32.6* MCHC-32.0 RDW-15.2 Plt ___
___ 06:45PM PLEURAL Hct,Fl-3*
___ 11:00AM PLEURAL TotProt-5.3 Glucose-91 LD(LDH)-159 
Albumin-2.6
___ 07:00AM BLOOD WBC-7.8 RBC-2.71* Hgb-8.8* Hct-27.6* 
MCV-102* MCH-32.6* MCHC-32.0 RDW-15.2 Plt ___
 
Brief Hospital Course:
___ year old gentleman with history of ESRD on HD since ___, AF 
and HFrEF (LVEF ___ in ___ presented from ___ facility 
with hypotension, hyperkalemia, AFib with RVR, and a clotted 
left AV fistula.  Patient was given emergent dialysis via a 
temporary catheter, was rate-controlled, the clotted AV fistula 
was balloon angioplastied open, and the patient was discharged 
to home with existing services after a trial of HD in-hospital. 

# Dialysis Access / ESRD on HD: Secondary to HTN/T2DM and 
obstructive nephropathy from a neurogenic bladder.  Usually 
___.  AV Fistula clotted off and temporary femoral HD 
catheter placed in ED on ___.  Transplant surgery and 
nephrology recommended fistulogram with possible ___ 
thrombolysis.  On ___, ___ performed a successful 
fistulogram/balloon angioplasty and deemed the fistula ready for 
hemodialysis.  Hemodialysis was completed successfully on ___, 
his temporary nontunneled right femoral HD line was 
discontinued, and he was discharged home.  He was continued on 
Erythropoietin 8000U ___, Venofer® ___, Paricalcitol 3 
mcg IV qHD, Sevelamer with meals, and Nephrocaps.  He was 
temporarily on heparin gtt for AFib and due to the AV fistula 
clot but this was discontinued early ___ due to concern of 
bleeding.  Due to concern of rethrombosis of AV fistula, gave 
wife AV Care ___ appointment to set up for 3 month 
surveillance ultrasound.  His temporary femoral line was 
discontinued post-successful HD with his AV fistula.

# Anemia / Concern for Bleeding: During his ICU course and 
post-AV fistula angioplasty, Mr. ___ hematocrit decreased 
from 35 to 25.  Patient was hemodynamically stable and 
asymptomatic.  Heparin gtt was discontinued, patient was Typed & 
Crossed, wife was consented, and his Hct was stable throughout 
the rest of his hospital stay.  He received one unit of pRBCs 
along with iron dextran and EPO as per usual.

# Afib with RVR: Mr. ___ has a history of atrial 
fibrillation with RVR. His CHADS2 score is 3 (CHF, HTN, Age).  
He was rapidly rate-controlled in the ICU.  Rate control 
employed ___ LA 80 mg PO QD with Propanolol 20 mg PO TID 
PRN HR>110.  Patient was initially on heparin gtt for 
anticoagulation, warfarin was restarted ___, and heparin was 
discontinued in setting of concern of bleeding.  Patient will 
get a repeat INR as an outpatient and followup with his 
nephrologist.

# Pleural Effusion: Patient has a history of chronic 
transudative pleural effusions due to CHF status-post PleurX® 
drainage placement on ___.  The temporary hold on warfarin 
for this procedure may have allowed thrombus to form in the AV 
fistula.  Fluid was drained every two days in the hospital.  
Noted to be red on ___ but pleural Hct was only 3%; felt to be 
old drainage without active bleeding.

# Acute on chronic systolic CHF (LVEF ___ in ___: Pleural 
effusions seen on CXR, likely secondary to chronic heart 
failure. Patient was essentially euvolemic throughout his 
hospital stay, maintained on furosemide 80g PO Daily on 
non-dialysis days.

# Hyperkalemia: Likely due to missing dialysis session today 
secondary to clotted fistula. His K 6.9 on arrival and has ECG 
changes with peaked T waves and widening of his QRS. Temporized 
with insulin/D50, calcium, and NaHCO3. A Femoral line was placed 
for urgent dialysis and he was dialyzed in the ED.  K+ was 
within normal limits throughout the rest of his hospital stay, 
kept in check through scheduled hemodialysis.

# HTN: Chronic stable issue on home propranolol.

# Neurogenic bladder: Mr. ___ has a history of neurogenic 
bladder and a history of urosepsis. He straight caths at home.  
Continued on q48 hour straight catheterizations, 
neomycin-polymixin bladder irrigations, and finasteride.

# Stage II Pressure Ulcers: A wound care consult was requested 
for Stage II pressure ulcers but was rejected.

# Insomnia: Chronic stable issue continued on home Zolpidem.

# Gout: Continued allopurinol 50 mg PO every other day.

# Hypothyroidism: TSH obtained was 6.3 on ___.  Continued 
levothyroxine at home dose.

# Sleep apnea: Continued on home CPAP

# CODE STATUS / DISPOSITION: Full Code confirmed.  Contact and 
HCP is wife ___, reachable at ___.  Discharged home 
with existing 24-hour services.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q12H 
2. Neomycin-Polymyxin B GU 20 mL ___ Q48H 
3. Nephrocaps 1 CAP PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Propranolol LA 80 mg PO DAILY 
8. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
9. Allopurinol 50 mg PO EVERY OTHER DAY 
10. Finasteride 5 mg PO DAILY 
11. Propranolol 20 mg PO QID:PRN rapid heart rate 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Sucralfate 1 gm PO TID 
14. Warfarin 1 mg PO DAILY16 
15. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
16. Cinacalcet 60 mg PO PER HOME REGIMEN 
17. Clotrimazole Cream 1 Appl TP BID 
18. Sarna Lotion 1 Appl TP DAILY:PRN itchiness 

 
Discharge Medications:
1. Allopurinol 50 mg PO EVERY OTHER DAY 
2. Clotrimazole Cream 1 Appl TP BID 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Neomycin-Polymyxin B GU 20 mL ___ Q48H 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Propranolol LA 80 mg PO DAILY 
12. Sarna Lotion 1 Appl TP DAILY:PRN itchiness 
13. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
14. Sucralfate 1 gm PO TID 
15. Warfarin 1 mg PO DAILY16 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. Cinacalcet 60 mg PO PER HOME REGIMEN 
18. Propranolol 20 mg PO QID:PRN rapid heart rate 
19. Outpatient Lab Work
Please draw a ___ on or around ___
IC9 CODE: 427.31 Atrial Fibrillation, 996.74 Arteriovenous 
Fistula Thrombosis
Please fax results to Dr. ___ at ___
20. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
RX *acetaminophen 325 mg 1 or 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Clogged Arteriovenous Fistula s/p Thrombolysis
Hyperkalemia
Atrial Fibrillation with Rapid Ventricular Response

ESRD on HD ___
CHF LVEF 35% with Chronic Pleural Effusions s/p PleurX(R) 
drainage placement

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure to take care of you at ___ 
___.  You were admitted because your AV fistula (that 
allows you to get dialysis for your kidney failure) was clotted 
off; you also had a high potassium level and your heart rate was 
very fast.  Your heart rate was lowered, your fistula was 
unclogged, and you were given dialysis to make your electrolytes 
normal.  Best of luck to you in your future health.
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.  Please take all medications as prescribed, attend 
all doctor's appointments as directed, follow a heart healthy 
renal diet with low sodium/potassium/phosphorus, and call a 
physician if you have any questions or concerns.
 
Followup Instructions:
___